US07439398B2
Preparation of Enantiomerically Pure Atomoxetine HCl
One mole of atomoxetine (S)-(+)-mandelate (88.6% w/w by potentiometric assay) was mixed under stirring with 2037.5 ml of n-butyl acetate and 2037.5 ml of water. Keeping the temperature between 20-25° C., 1.529 moles of 30% aqueous sodium hydroxide was added, and then the phases were separated. The organic phase was washed twice with 400 ml of water, then filtered on paper and used for the next step. While stirring and maintaining the temperature between about 22° C. and about 25° C. by means of water bath cooling, 1.1435 moles of aqueous hydrogen chloride (36%) was dropped on the atomoxetine base solution obtained above. The hydrochloride then crystallized. The obtained suspension was stirred at about 25° C. for one hour; the solid was collected by filtration, and washed twice with 345 ml of n-butyl acetate. The solid collected was dried for 18 hours at 70° C. under vacuum. Enantiomeric purities are summarized in the following table:

reactant | atomoxetine (S)-(+)-mandelate | One mole | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.C([C@@H](O)C1=CC=CC=C1)(=O)[O-]
reactant | sodium hydroxide | 1.529 moles | [OH-].[Na+]
reactant | hydrogen chloride | 1.1435 moles | Cl | ClH
reactant | atomoxetine | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2 | C17H21NO
solvent | water | 2037.5 ml | O | H2O
solvent | n-butyl acetate | 2037.5 ml | C(C)(=O)OCCCC | C6H12O2
product | Atomoxetine HCl | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
